US07396844B1
Synthesis of t-butyl N-[(1R)-1-benzyl-2-(3-cyanophenoxy)ethyl]carbamate
8.52 g (31.6 mmol) of t-butyl N-[(1R)-1-benzyl-2-chloroethyl]carbamate, 12.1 g (87.5 mmol) of potassium carbonate and 5 g (41.9 mmol) of 3-cyanophenol were reacted in 120 ml of dimethylformamide as the solvent at 70° C. overnight. After the treatment in an ordinary manner followed by the silica gel column chromatography, the title compound was obtained.

reactant | t-butyl N-[(1R)-1-benzyl-2-chloroethyl]carbamate | 31.6 mmol, 8.52 g | C(C1=CC=CC=C1)[C@H](CCl)NC(OC(C)(C)C)=O | C14H20ClNO2
reactant | potassium carbonate | 87.5 mmol, 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyanophenol | 41.9 mmol, 5 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | t-butyl N-[(1R)-1-benzyl-2-(3-cyanophenoxy)ethyl]carbamate | C(C1=CC=CC=C1)[C@H](COC1=CC(=CC=C1)C#N)NC(OC(C)(C)C)=O | C21H24N2O3
